US05217978
Using the procedure described in Example 5, (2S,4R)-4-(5-bromothien-2-yl)-4-methoxy-2-methyltetrahydropyran was reacted with di-(4-tert-butylphenyl) disulphide to give (2S,4R)-4-[5-(4-tert-butylphenylthio)thien-2-yl]-4-methoxy-2-methyltetrahydropyran in 38% yield as an oil.

reactant | (2S,4R)-4-(5-bromothien-2-yl)-4-methoxy-2-methyltetrahydropyran | BrC1=CC=C(S1)[C@@]1(C[C@@H](OCC1)C)OC | C11H15BrO2S
reactant | di-(4-tert-butylphenyl) disulphide | C(C)(C)(C)C1=CC=C(C=C1)SSC1=CC=C(C=C1)C(C)(C)C | C20H26S2
product | (2S,4R)-4-[5-(4-tert-butylphenylthio)thien-2-yl]-4-methoxy-2-methyltetrahydropyran | 38% yield | C(C)(C)(C)C1=CC=C(C=C1)SC1=CC=C(S1)[C@@]1(C[C@@H](OCC1)C)OC | C21H28O2S2
